US05578287
1. Preparation of (N-methyl)glycyl biotin
DMF (8.0 ml) and triethylamine (0.61 ml, 4.35 mmol) were added to solids N-methyl glycine (182 mg, 2.05 mmol) and N-hydroxy-succinimidyl biotin (500 mg, 1.46 mmol). The mixture was heated for 1 hour in an oil bath at 85° C. during which time the solids dissolved producing a clear and colorless solution. The solvents were then evaporated. The yellow oil residue was acidified with glacial acetic acid, evaporated and chromatographed on a 27 mm column packed with 50 g silica, eluting with 30% MeOH/EtOAc 1% HOAc to give the product as a white solid (383 mg) in 66% yield.

reactant | triethylamine | 4.35 mmol, 0.61 ml | C(C)N(CC)CC | C6H15N
reactant | N-methyl glycine | 2.05 mmol, 182 mg | CNCC(=O)O | C3H7NO2
reactant | N-hydroxy-succinimidyl biotin | 1.46 mmol, 500 mg | ON1[C@H]2CS[C@@H](CCCC(C(O)=O)N3C(CCC3=O)=O)[C@H]2NC1=O | C14H19N3O6S
solvent | DMF | 8.0 ml | CN(C)C=O | C3H7NO
product | (N-methyl)glycyl biotin | 383 mg, 66% yield | CNCC(=O)C(C(O)=O)CCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C13H21N3O4S
